Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Left Facial Droop associated with Left-sided Weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The pt is a ___ year-old right-handed man with a PMH of MVR
with a mechanical valve on coumadin. He was transfered from an
OSH this evening after presenting with L sided weakness for one
day. 

Mr. ___ states that he was in his USOH until yesterday 
morning
when he awoke and had a R temporal HA. The pain is constant but
becomes sharp when he coughs. It is not positional however and
not associated with photo, phonophobia or nausea/vomiting. It 
did
not wake him from sleep. He also felt that his face felt strange
and he was talking out of the corner of the R side of his face.
He also noted that his L arm felt weak. He went to work and 
hoped
that his symptoms would improve, however today he had the same
symptoms and his co-workers noted that he was not really moving
the L side of his face either. He therefore went to an OSH ED.
There he underwent a CT head and was noted to have a R MCA
infarct and was transfered here for further care. 

Of note, Mr. ___ recently ran out of coumadin and had stopped
taking it for about a week. He refilled his prescription on ___
and has been taking it daily since then. 

ROS:  
The pt denied loss of vision, blurred vision, diplopia,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denied difficulties comprehending speech. Denied
focal numbness, parasthesiae. Denied difficulty with gait. The 
pt
denied recent fever or chills. No night sweats or recent weight
loss or gain. Denied cough, shortness of breath. Denied chest
pain or tightness, palpitations. 
 

 
Past Medical History:
- mitral valve replacement ___
- MVP s/p MAZE procedure and left atrial appendage ligation ___
- prior splenic infarct when INF was low earlier this year

 
Social History:
___
Family History:
-mother:  in good health
-father:  in good health
 
Physical Exam:
ON ADMISSION:
General: Awake, cooperative, NAD.  
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx  
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity  

Pulmonary: Lungs CTA bilaterally without R/R/W  
Cardiac: RRR, nl. S1S2, + click of mechanical valve best heard 
at
sternal boarder 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.  
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.  
Skin: no rashes or lesions noted.  

Neurologic:  
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt. was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands.  The pt. had good knowledge of current events. There
was no evidence of apraxia or neglect.  

CN  
I: not tested  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally, fundi
normal  
III,IV,V: EOMI, no ptosis. No nystagmus  
V: sensation intact V1-V3 to LT  
VII: L facial droop, intact forehead wrinkle, no spontaneous
smile
VIII: hears finger rub bilaterally  
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone; no asterixis or myoclonus. + L 
pronator drift.  
   Delt Bi  Tri  WE FE Grip IO  
   C5   C6  C7   C6 C7 C8/T1 T1  
L  5- ------------   5 5     5  
R  5    5   5    ___     5  
  
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L  5- -------------------    
R  5  5     5    5 5    5  

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L 1--------------- Flexor  
R tr-------------- Flexor  

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Nl sterognosia and graphesthesia  

-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally.  

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. Romberg 
absent.

 
Pertinent Results:
WBC-8.2 RBC-5.13 HGB-15.2 HCT-43.7 MCV-85 PLT-
GLUCOSE-95 UREA N-9 CREAT-0.8 SODIUM-138 POTASSIUM-3.5 
CHLORIDE-102 TOTAL CO2-27 ANION GAP-13
___ PTT-43.5* ___
ASA-NEG ETHANOL-NEG ACETMNPHN-NEG bnzodzpn-NEG barbitrt-NEG 
tricyclic-NEG
ALT(SGPT)-24 AST(SGOT)-26 CK(CPK)-60 ALK PHOS-110
CALCIUM-7.3* PHOSPHATE-3.8 MAGNESIUM-2.3
CK-MB-NotDone cTropnT-<0.01
.
Modifiable Risk Factors for Stroke:
%HbA1c-5.5
Chol 237, ___ 118, HDL 43, LDL 170
.
INR on discharge: 1.9
.
IMAGING
.
MRI Brain (___):
IMPRESSION: Acute right-sided MCA distribution infarcts.
.
MRA Brain (___):
IMPRESSION: Focal flow gap in the right MCA bifurcation, likely 
secondary to
a thrombus in this region. The hyperintense vessels are seen on 
FLAIR in the
right parietal region which could be secondary to slow flow. 
Opacification of
the right maxillary sinus is seen with inspissited secretions.
.
CT Head (___):
There is no intracranial hemorrhage. Parenchymal hypodensity is 
noted on the
right, in an MCA distribution primarily involving the temporal 
lobe,
progressed since ___. The ventricles and sulci are 
normal in size
and in configuration. Focal hypodensities are also noted at the 
right basal
ganglia, consistent with diffusion abnormalities seen in the 
same location on
a comparison MR. ___ soft tissue structures are 
unremarkable. The
included paranasal sinuses and mastoid air cells are clear and 
the visualized
osseous structures reveal no fracture.

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a past medical history 
including mitral valve replacement with a mechanical valve who 
presented to an outside hospital with left facial droop and 
left-sided weakness. A CT of the head revealed a right MCA 
infarct and he was transferred to the ___ for further care.  
He was admitted to the stroke service from ___ to ___.
.
An MRI of the brain demonstrated acute infarctions in the right 
temporal lobe, right deep basal ganglia, and right 
temporo-occipital watershed distribution in the setting of a 
subtherapeutic INR.  The strokes were thought to be due to 
cardioembolic events.  Accordingly, the heparin drip was 
continued with a PTT goal of 50-70.  The patient's outpatient 
regimen of coumadin was also restarted.
.
Blood pressure was allowed to autoregulate with a goal SBP under 
180.
.
To evaluate modifiable risk factors for stroke, lipids and 
glycosylated hemoglobin were measured.  The LDL was found to be 
170; as the stroke was thought to be due to 
cardio-thromboembolic events, a statin was not started.  
Although the HBA1C was 5.5 %, blood glucose was monitored 
regularly and an insulin sliding was instituted to maintain 
normoglycemia.
.
The patient was discharged home with lovenox.
.
CODE: full code
 
Medications on Admission:
-coumadin alteranting 5 and 7.5 mg 

 
Discharge Medications:
1. Warfarin 5 mg Tablet Sig: One (1) Tablet PO DAYS 
(___).  
2. Warfarin 5 mg Tablet Sig: 1.5 Tablets PO DAYS (___).  
3. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for headache.  
4. Lovenox 80 mg/0.8 mL Syringe Sig: One (1) syringe 
Subcutaneous twice a day: Take until directed to stop by your 
doctor.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. Cerebral infarction (stroke), acute, right temporal lobe and 
right basal ganglia
.
Secondary:
1. Mitral valve replacement, mechanical
 
Discharge Condition:
Normal exam.
 
Discharge Instructions:
You were evaluated for weakness of your left side and were found 
to have a stroke. This was due to a blood clot from your heart, 
caused by having a low INR. It is crucial that you take your 
Coumadin as directed every day, and have your INR monitored as 
directed. Until your INR is greater than 2.5, you will also need 
to take Lovenox. Please take all medications as directed and 
keep all follow-up appointments. 
.
If you have any sudden weakness, sensory loss, difficulty 
speaking or understanding speech, facial droop, or any other 
acute neurologic abnormality, please call ___.
 
Followup Instructions:
___